US07205326B2
Preparation of 4-Chloromethyl-2-[2-(3-trifluoromethyl-phenyl)-vinyl]-oxazole
2.0 g (9.3 mmol) 3-(3-Trifluoromethyl-phenyl)-acrylamide, 4.13 g (32.5 mmol) 1,3-dichloro acetone and 20.0 ml toluene were kept at reflux temperature for 16 h with continuous removal of water by use of a Dean-Stark trap. After removal of solvents in vacuo, the residue was purified by flash column chromatography (heptanes/ethyl acetate 2:1). Yield: 1.92 g (72%) 4-Chloromethyl-2-[2-(3-trifluoromethyl-phenyl)-vinyl]-oxazole as tan solid.

reactant | 3-(3-Trifluoromethyl-phenyl)-acrylamide | 9.3 mmol, 2.0 g | FC(C=1C=C(C=CC1)C=CC(=O)N)(F)F | C10H8F3NO
reactant | 1,3-dichloro acetone | 32.5 mmol, 4.13 g | ClCC(=O)CCl | C3H4Cl2O
solvent | toluene | 20.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-[2-(3-trifluoromethyl-phenyl)-vinyl]-oxazole | ClCC=1N=C(OC1)C=CC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
